US08748415B2
To a solution of 4-((((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl)(2-(dimethylamino)ethyl)amino)-4-oxobutanoic acid (47 mg, 0.061 mmol) in DCM (1 ml) was added TFA (0.25 ml, 3.24 mmol). The mixture was stirred at rt. After 1.75 h, The mixture was concentrated under reduced pressure, was diluted with dioxane and MeOH and was purified by prep HPLC to afford 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-carboxy-N-(2-(dimethylamino)ethyl)propanamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid as a white solid (25 mg, 0.035 mmol, 57.4% yield. LCMS: m/e 715.4 (M+H)+, 2.16 min (method 6).

reactant | 4-((((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl)(2-(dimethylamino)ethyl)amino)-4-oxobutanoic acid | 0.061 mmol, 47 mg | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)CN(C(CCC(=O)O)=O)CCN(C)C)C)C)(C)C | C49H74N2O5
reactant | TFA | 3.24 mmol, 0.25 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-carboxy-N-(2-(dimethylamino)ethyl)propanamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 57.4% yield | C(=O)(O)CCC(=O)N(CCN(C)C)C[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C45H66N2O5
